US07067517B2
4-(5-Chloro-2-methyl-phenyl)-piperazine-1-carboxylic acid 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl ester
The hydrochloride of the title compound was prepared from 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl chloroformate and 1-(5-chloro-2-methyl-phenyl)-piperazine The crude product was converted to the free base, yield 26%. White crystals; HPLC-MS:m/z=492(M+H) at Rt=5.5 min.; IR (KBr): ν 1722 (C═O) cm−1.

reactant | 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)OC1=NC=C(C=C1)C(F)(F)F | C13H7ClF3NO3
reactant | 1-(5-chloro-2-methyl-phenyl)-piperazine | ClC=1C=CC(=C(C1)N1CCNCC1)C | C11H15ClN2
reactant | KBr | [K+].[Br-]
product | 4-(5-Chloro-2-methyl-phenyl)-piperazine-1-carboxylic acid 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl ester | FC(C=1C=CC(=NC1)OC1=CC=C(C=C1)OC(=O)N1CCN(CC1)C1=C(C=CC(=C1)Cl)C)(F)F | C24H21ClF3N3O3
